US05686469
1-[2-(S)-[(Naphthalene-1-carbonyl)amino]-4-methylpentyl]-L-proline 4-Phenylbutylamide
Using the procedure described in Example 7, treatment of 1-[2-(S)-amino-4-methylpentyl]-L-proline 4-phenylbutylamide (120 mg) with 1-naphthoyl chloride (71 uL) provided 66 mg (42%) of the title compound. The 1H NMR and Mass spectrum analysis of this compound was consistent with the structure.

reactant | 1-[2-(S)-amino-4-methylpentyl]-L-proline 4-phenylbutylamide | 120 mg | C1(=CC=CC=C1)CCCCNC([C@H]1N(CCC1)C[C@H](CC(C)C)N)=O | C21H35N3O
reactant | 1-naphthoyl chloride | 71 uL | C1(=CC=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
product | 1-[2-(S)-[(Naphthalene-1-carbonyl)amino]-4-methylpentyl]-L-proline 4-Phenylbutylamide | 66 mg, 42% | C1(=CC=CC=C1)CCCCNC([C@H]1N(CCC1)C[C@H](CC(C)C)NC(=O)C1=CC=CC2=CC=CC=C12)=O | C32H41N3O2
